US07355065B2
In a sulfonation flask, N,N-diethyl-2,2-difluoroacetamide (1.51 g; 10 mmol) was dissolved in ethyl acetate (20 ml) before ethanolic sodium ethoxide (15 ml of a 21% solution; 40.2 mmol) was added dropwise. The resulting mixture was stirred at 60° C. for 6 hours. After cooling, the mixture was poured into ice-water (20 ml), acidified with hydrochloric acid (10%) and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and evaporated in a water jet vacuum. The residue was purified by distillation under reduced pressure to give the desired 4,4-difluoro-3-oxo-butanoic acid ethyl ester in the form of a colourless oil.

reactant | N,N-diethyl-2,2-difluoroacetamide | 10 mmol, 1.51 g | C(C)N(C(C(F)F)=O)CC | C6H11F2NO
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium ethoxide | [O-]CC.[Na+]
product | 4,4-difluoro-3-oxo-butanoic acid ethyl ester | C(C)OC(CC(C(F)F)=O)=O | C6H8F2O3
